US08445684B2
Into a 50-mL 3-necked round-bottom flask under N2 was placed a solution of 2-(4-iodophenyl)ethanol (470 mg, 1.90 mmol) in tetrahydrofuran (10 mL). Sodium hydride (91 mg, 3.8 mmol, 1.2 equiv.) was added at 0° C. The mixture was warmed to room temperature and stirred at room temperature for 2 h. Benzyl bromide (272 μL, 3.9 mmol, 1.2 equiv.) and tetra-n-butylammonium bromide (61 mg, 0.19 mmol, 0.10 equiv.) were added at room temperature. The resulting solution was stirred for 20 h at room temperature. The reaction was then quenched by the addition of 10 mL of aqueous NH4CI. The solution was extracted with 3×60 mL of EtOAc, and the organic layers were combined and washed with 50 mL of brine. After evaporation, the residue was applied onto a silica gel column, and the product was eluted with EtOAc/petroleum ether 1:20 to furnish 600 mg (94%) of 1-[2-(benzyloxy)ethyl]-4-iodobenzene as a white solid.

reactant | 2-(4-iodophenyl)ethanol | 1.90 mmol, 470 mg | IC1=CC=C(C=C1)CCO | C8H9IO
reactant | Sodium hydride | 3.8 mmol, 91 mg, 1.2 equiv. | [H-].[Na+]
reactant | Benzyl bromide | 3.9 mmol, 272 μL, 1.2 equiv. | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | tetra-n-butylammonium bromide | 0.19 mmol, 61 mg, 0.10 equiv. | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-[2-(benzyloxy)ethyl]-4-iodobenzene | 600 mg, 94% | C(C1=CC=CC=C1)OCCC1=CC=C(C=C1)I | C15H15IO
